US08957070B2
Ethyl 7-({[2-(methoxycarbonyl)-3-thienyl]sulfonyl}amino)-1H-indole-2-carboxylate
To a mixture of ethyl 7-amino-1H-indole-2-carboxylate (0.30 g) and pyridine (5 mL) was added 2-methoxycarbonyl-3-thiophenesulfonyl chloride (0.42 g) at 4° C., and the mixture was stirred at room temperature for 2 days. The reaction mixture was concentrated, diluted with ethyl acetate, washed with aqueous citric acid solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:4-ethyl acetate.), and the obtained crystals were washed with ethyl acetate-hexane to give the title compound (550 mg, yield 92%) as pale-yellow crystals. melting point 173-174° C.

reactant | ethyl 7-amino-1H-indole-2-carboxylate | 0.30 g | NC=1C=CC=C2C=C(NC12)C(=O)OCC | C11H12N2O2
reactant | 2-methoxycarbonyl-3-thiophenesulfonyl chloride | 0.42 g | COC(=O)C=1SC=CC1S(=O)(=O)Cl | C6H5ClO4S2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 7-({[2-(methoxycarbonyl)-3-thienyl]sulfonyl}amino)-1H-indole-2-carboxylate | 550 mg, yield 92% | COC(=O)C=1SC=CC1S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(=O)OCC | C17H16N2O6S2
